US07183276B2
To a mixture of 3-{3-[2-(1H-benzoimidazol-1-yl)-4-(4-chlorophenyl)-5-oxazolyl]propanoyl}thiazolidine (25 mg) and tetrahydrofuran (10 mL) was added m-chloroperbenzoic acid (14.4 mg) with stirring under ice-cooling, and the mixture was stirred overnight at room temperature. The reaction mixture was poured into water, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated aqueous sodium hydrogen carbonate and then with saturated brine, dried (MgSO4) and concentrated. The residue was introduced into preparative HPLC and purified to give 3-{3-[2-(1H-benzoimidazol-1-yl)-4-(4-chlorophenyl)-5-oxazolyl]propanoyl}thiazolidine-1-oxide (7.3 mg, yield 28%).

reactant | 3-{3-[2-(1H-benzoimidazol-1-yl)-4-(4-chlorophenyl)-5-oxazolyl]propanoyl}thiazolidine | 25 mg | N1(C=NC2=C1C=CC=C2)C=2OC(=C(N2)C2=CC=C(C=C2)Cl)CCC(=O)N2CSCC2 | C22H19ClN4O2S
reactant | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
reactant | m-chloroperbenzoic acid | 14.4 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | water | O | H2O
product | 3-{3-[2-(1H-benzoimidazol-1-yl)-4-(4-chlorophenyl)-5-oxazolyl]propanoyl}thiazolidine-1-oxide | 7.3 mg, yield 28% | N1(C=NC2=C1C=CC=C2)C=2OC(=C(N2)C2=CC=C(C=C2)Cl)CCC(=O)N2CS(CC2)=O | C22H19ClN4O3S
